US04064244
EXAMPLE 1: 2-(4-methyl-1-piperazinyl)-4-tert.butyl-thiazole [process variant a)]
1.34 g of chloropinacoline are dissolved in 15 cc of absolute ethanol. After the addition of 1.6 g of 4-methyl-1-piperazinyl-thiocarboxamide, the mixture is heated to the boil on a water bath for 1 hour. Cooling is then effected and diethyl ether is added until the mixture remains turbid. The precipitated crystals are filtered off and recrystallized from ethanol. The resulting 2-(4-methyl-1-piperazinyl)-4-tert.butyl-thiazole hydrochloride has an M.P. of 206°. The base liberated from its hydrochloride in known manner by treatment with an aqueous sodium hydroxide solution has a B.P. of 97°-99°/0.2 mm Hg.

reactant | chloropinacoline | 1.34 g | CC(C)(C)C(=O)CCl | C6H11ClO
reactant | 4-methyl-1-piperazinyl-thiocarboxamide | 1.6 g | CN1CCN(CC1)C(=S)N | C6H13N3S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 15 cc | C(C)O | C2H6O
product | 2-(4-methyl-1-piperazinyl)-4-tert.butyl-thiazole | CN1CCN(CC1)C=1SC=C(N1)C(C)(C)C | C12H21N3S
